Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
left ___ pain and swelling
 
Major Surgical or Invasive Procedure:
LEFT ENDOSCOPIC SINUS SURGERY; LEFT ORBITOTOMY; DRAINAGE OF LEFT 
ORBITAL ABSCESS

 
History of Present Illness:
Ms. ___ is a ___ year old right-handed woman with complex
medical history, notable for ___ disease, followed here
at ___ by Dr. ___,  ___ valve insufficiency s/p repair 
and
closure (___), prior R temporo-occipital infarct, paroxysmal
atrial fibrillation, prior Takutsubo cardiomyopathy, s/p PEG
placement, hypertension, hyperlipidemia, GERD, Graves disease,
who presents with 3 day history of left sided headache,
retro-orbital pain and progressive ___ swelling. History 
provided
by patient and discussion with multiple family members at
bedside. 

Ms. ___ was ___ her usual state of health until 3 days ago
(___) when she began having a left sided temporal and
retro-orbital headache, throbbing ___ quality. She had no
preceding changes to her routine including trauma, fever, or
medication changes. The pain came on gradually while she was at 
a
party. The headache was associated with mild photophobia, 
without
nausea/vomiting, or visual symptoms (no visual loss, no
flashers/floaters, no diplopia, no positive visual phenomena).
Given that she has a history of chronic migraine, she initially
attributed symptoms to migraine. However, the headache was
distinctly different than her migraines ___ that it was
unilateral, and associated with retro-orbital pain. Her typical
migraines, by contrast, are rare, and the last migraine was at
least several months ago. She took Zolmig (Zolmitriptan) 2.5mg
and went to sleep. She was able to sleep through the night
without symptoms. 

The following morning, the headache persisted, which was also
atypical for her, as her migraines typically respond to Zomig.
She took additional 5mg Zomig without relief (2.5mg x2 over the
course of the morning, spaced 2 hours apart). She was quite
fatigued and slept during most of the day. As the day went on,
the left ___ became progressively swollen. By ___, the ___ was
so swollen that it was sweollen shut.  Interestingly, her pain
was relatively well controlled on Tylenol. 

Today, the swelling of the left ___ continued, refractory to 
cold
compresses. She developed significant chemosis and proptosis of
the left ___. As a result, she went to see her opathlmologist
(Dr. ___ was concerned and recommended discussion
with her neurologist (Dr. ___.  Patient was recommended to
come to ED for urgent evaluation. 

Of note, family and patient report Ms. ___ had a history of
similar symptoms (acute onset of L ___ swelling, headache and
retro-orbital pain) ___ ___. This resolved after ___ 
days
without intervention. No imaging modalities were done at this
time and etiology was unclear. 

Regarding her Parkinsonism, her course is briefly summarized
below as follows, with significant contribution from Dr. ___
note ___ ___. She first developed ___ ___, at age ___,
with right hand tremor, considered to be Parkinsonian on
evaluation by Dr. ___.  She was tried
initially on Sinemet
___ tablets, but this caused nausea, and she could not
tolerate more than 0.5 tablet of ___ TID. As a result, she
now takes 0.5 tablet QHS (12.5/100mg Sinemet) as this is the 
only
dose and time she was able to tolerate it.  Of note, she was 
also
tried on Rytary (23.75/95) by Dr. ___ with
similar results.  She has not been on a dopamine agonist. 
Instead, she takes amantadine 100 mg bid for her tremor.  She
previously tried 100 mg TID at one time, which caused musical
hallucinations. She also takes rasagiline 1 mg daily, with no
clear effect.  Her overall course of PD has progressed over the
years, and now has tremors throughout the R>L side.  She now has
great difficulty getting out of a chair, complicated by the fact
that she has recently underwent shoulder surgery.  Other 
symptoms
include difficulty dressing herself, feeding herself, 
significant
bradykinesia and stiffness. She has not had clear cognitive
complaints and no hallucinations. She does have constipation and
is on Miralax. Finally, she has REM behavior disorder symptoms
(thrashes around ___ bed) but does not get out of bed. 

Her care was transitioned from Dr. ___ to Dr. ___ ___ ___. At that time he noted that she was significantly ataxic,
and cautiously weaned Depakote off (which she was on for
seizures, see below) with improvement. 

Otherwise, she has had a complex medical course over the latter
half of ___.  
- She had repair of her mitral valve and closure of a PFO ___
___, after which she was slow to wake up ___ the ICU,
found to have non-convulsive status epilepticus. Seizures were
eventually controlled on three AEDs, and she woke up. MRI
revealed right temporo-occipital infarct, but there were no 
clear
neurological deficits noted from patient or family.   
-___ ___, she was admitted to ___ with new onset A-fib
with
rapid ventricular rate, and Takotsubo cardiomyopathy, controlled
metoprolol and apixaban.  At that time PEG was placed to 
maintain
adequate nutrition, and is still ___ place.  She takes some pills
orally, but others have to be crushed and put into the g-tube. 
Since then she had been gradually weaned off her anti-epileptic
medications by her neurologists at ___, most recently off of
Depakote as above.

Currently, patient reports she has mild left temporal headache
and retro-orbtial pain, but it is well controlled and she is not
interested ___ receiving any medication. She has left ___ 
swelling
and can only open the ___ minimally. She denies any visual loss,
diplopia, or other visual symptoms.  No jaw claudication. 

On neuro ROS, the pt reports fatigue and difficulty initiating
gait. Denies dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change ___ bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
___ disease, followed here at ___ by Dr. ___ valve insufficiency s/p repair and closure (___)
Prior R temporo-occipital infarct
Paroxysmal atrial fibrillation
History of Takutsubo cardiomyopathy
Severe malnutrition s/p PEG placement (___)
Hypertension
Hyperlipidemia
GERD
Graves disease
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
===============
ADMISSION EXAM:
===============
General: Awake, cooperative, NAD.
HEENT: Significant left ___ proptosis, swelling and chemosis,
with warmth, to point that ___ is swollen shut. No supraorbital
bruit noted. NC/AT, no scleral icterus noted, MMM, no lesions
noted ___ oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive
to examiner. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. The pt had good
knowledge of current events. 

-Cranial Nerves:
I: Olfaction not tested.
II: Significant left ___ swelling. Visual acuity is ___
bilaterally, without improvement with pinhole correction. Gaze 
is
conjugate. PERRL 4 to 2mm. VFF to confrontation via finger
wiggling; inconsistently has difficulty distinguishing number of
fingers on both sides. Fundoscopic exam performed, revealed 
crisp
disc margins on the right with no papilledema, exudates, or
hemorrhages; unable to visualize fundus on the left ___ due to
prominent chemosis. 
III, IV, VI: EOMI without nystagmus apart from ___. Normal
saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength ___ trapezii and SCM bilaterally.
XII: Tongue protrudes ___ midline.

-Motor: reduced bulk, moderate rigidity of b/l arms and legs
throughout with coghweeling of right>left. R hand resting pill
rolling tremor. Mild-moderate bradykinesia throughout.  No
pronator drift bilaterally.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  ___    2   1 
R  ___    2   1 
Plantar response was withdrawal bilaterally.

-Coordination: No intention tremor noted. No dysmetria on FNF
bilaterally.

-Gait: Requires assistance to stand. Able to take ___ steps
without assistance. Gait is narrow based, shuffling, with 
reduced
stride length and arm swing. Deferred more detailed gait testing
due to patient preference. 

===============
DISCHARGE EXAM:
===============
General: lying ___ bed, NAD
HEENT: left ___ proptotic with conjunctival injection, complete
ptosis but now able to open ~0.5 cm
CV: warm and well-perfused
Resp: breathing comfortably ___ room air
Mental status: awake and alert, oriented , language is fluent
without paraphasic errors

Cranial nerves: Decreased vertical EOM bilaterally. Today
horizontal EOM ___ left ___ appear full. Intact sensation ___ the
face, face symmetric.

Motor: marked bilateral hand tremor R>L, moving both arms
spontaneously anti-gravity

 
Pertinent Results:
MR brain:
1. Motion limited exam. 
2. Multifocal paranasal sinus disease is better assessed on the
concurrent facial CT.  Relevant to this exam is complete
opacification of the left anterior ethmoid air cells with a
defect ___ the left lamina papyracea.  Adjacent heterogenous
collection ___ the superomedial and superior extraconal 
left orbit, most likely phlegmon, without evidence for an
abscess.  Associated left proptosis. 
3. Possible left inferior dural enhancement near the left orbit,
which may be reactive or may represent direct spread of
infection. 
4. Extensive left periorbital soft tissue swelling and contrast
enhancement without evidence for an abscess, compatible with
cellulitis/phlegmon. 
5. Small chronic infarct ___ the right superior occipital and
right inferior parietal lobes is new since the ___ MRI.
Gyriform hyperintensity on postcontrast T1 weighted images along
the infarcted area likely represents intrinsic T1 hyperintensity
consistent with pseudolaminar necrosis. 
 
CT sinus:
1. Complete opacification of the left anterior ethmoid air 
cells,
increased compared to ___, with new osseous sclerosis. 
2. 9 x 9 mm erosion ___ the otherwise sclerotic left lamina 
papyracea.  Soft tissue density ___ the superomedial and superior 
extraconal left orbit, consistent with phlegmon, and associated 
left proptosis.  No evidence for an intraorbital abscess. 
3. Extensive left periorbital swelling with soft tissue density, 
compatible with cellulitis/phlegmon, without evidence for an 
abscess. 
4. Status post right partial ethmoidectomy and bilateral
maxillary antrostomies, new since ___.  Patent right frontal 
neo ostium and bilateral  maxillary neo ostia. 
5. Fluid ___ the right frontal and bilateral sphenoid sinuses,
indicating active inflammation.

===================
ADMISSION LAB WORK:
===================

___ 08:15PM BLOOD WBC-8.9 RBC-4.83 Hgb-14.2 Hct-42.8 MCV-89 
MCH-29.4 MCHC-33.2 RDW-14.3 RDWSD-46.2 Plt ___
___ 08:18AM BLOOD ___ PTT-32.4 ___
___ 08:15PM BLOOD Glucose-126* UreaN-20 Creat-0.8 Na-141 
K-4.4 Cl-100 HCO3-25 AnGap-16
___ 08:18AM BLOOD TSH-1.7
___ 08:15PM BLOOD CRP-49.7*

==================
MICROBIOLOGY DATA:
==================
___ 5:00 pm SWAB      LEFT NASAL FLUID. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.  SECOND 
MORPHOLOGY. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          STAPH AUREUS COAG +
                             |          |          PSEUDOMONAS 
AERUGINOSA
                             |          |          |   
CEFEPIME--------------     8 S                   8 S
CEFTAZIDIME-----------     8 S                   8 S
CIPROFLOXACIN---------   =>4 R                   2 I
CLINDAMYCIN-----------                  R
ERYTHROMYCIN----------                  R
GENTAMICIN------------     4 S    <=0.5 S        4 S
LEVOFLOXACIN----------           <=0.12 S
MEROPENEM-------------  =>16 R                   8 R
OXACILLIN-------------           <=0.25 S
PIPERACILLIN/TAZO-----    16 S                  16 S
TETRACYCLINE----------              <=1 S
TOBRAMYCIN------------   <=1 S                 <=1 S
TRIMETHOPRIM/SULFA----            <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      Inappropriate specimen collection (swab) for Fungal Smear 
(___). 
=
=
=
=
=
=
=
=
=
=
================================================================
___ 4:15 am SWAB

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH. 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 
      STAPH AUREUS COAG +.    QUANTITATION NOT AVAILABLE. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          STAPH AUREUS COAG +
                             |          |   
CEFEPIME--------------     4 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------     1 S
CLINDAMYCIN-----------                  R
ERYTHROMYCIN----------                  R
GENTAMICIN------------     2 S    <=0.5 S
LEVOFLOXACIN----------           <=0.12 S
MEROPENEM-------------<=0.25 S
OXACILLIN-------------           <=0.25 S
PIPERACILLIN/TAZO-----     8 S
TETRACYCLINE----------              <=1 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----            <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


 
Brief Hospital Course:
================
PATIENT SUMMARY:
================
Ms. ___ is a ___ year old female with ___ disease, 
hypertension, hyperlipidemia, h/o Grave's disease, h/o chronic 
sinusitis s/p sinus surgery ___ years prior, atrial fibrillation 
(on Eliquis), and MV insufficiency s/p MVR c/b stroke and 
non-convulsive status epilepticus, who presented with 3 days of 
left ___ swelling and pain. 

===============================
ACUTE MEDICAL ISSUES ADDRESSED:
===============================
#Ethmoidal sinusitis, left orbital abscess:
Imaging on admission revealed extensive ethmoidal sinus disease 
with medial inferior orbital wall subperiosteal abscess 
formation with extension along the superior orbit, without 
evidence of intracranial enhancement to suggest infectious 
extension. Given worsening of exam, with restricted ___ 
movements ___ the left ___, patient had a left orbitotomy with 
drainage of the orbital abscess with the ophthalmology and ENT 
teams on ___. A drain was placed, which was removed on ___. 
The ophthalmology and ENT teams followed the patient closely 
during her hospitalization.

The infectious disease team was consulted and provided 
recommendations regarding antibiotic selection. Patient was 
initially treated with broad spectrum antibiotics (ceftazidime 
--> Meropenem, vancomycin) with a 72-hour course of clindamycin 
for anti-toxin effect. Patient's cultures ultimately grew 
Pseudomonas and MSSA. She was narrowed to cefepime and Flagyl 
for a planned 6-week course (___). 

Patient had two loose stools prior to discharge, attributed to 
broad antibiotic regimen. If she has on-going loose stool, would 
consider testing for C. difficile.

#Anti-coagulation: 
On admission (___) patient's home Apixaban was held ___ 
anticipation of required surgery. Given ___ bleeding 
risk and finding of significant amount of old blood ___ draining 
the abscess, patient's Apixaban was held for an additional three 
days. She was restarted on her home Apixaban on ___. 

=======================
CHRONIC MEDICAL ISSUES:
=======================
#HTN: Patient was continued on her home metoprolol.
#Hyperlipidemia: Patient was continued on her home atorvastatin.
___ disease: Patient was continued on her home 
amantadine, carbidopa-levodopa, and rasagiline.

====================
TRANSITIONAL ISSUES:
====================
[]Follow up with ID, ENT, and ophthalmology.
[]Cefepime and Flagyl x 6 week course
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amantadine 100 mg PO BID 
2. Apixaban 5 mg PO BID 
3. Atorvastatin 20 mg PO QPM 
4. Levothyroxine Sodium 88 mcg PO DAILY 
5. Metoprolol Tartrate 12.5 mg PO BID 
6. Rasagiline 1 mg PO DAILY 
7. Famotidine 20 mg PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY 
9. Vitamin D 5000 UNIT PO DAILY 
10. Carbidopa-Levodopa (___) 0.5 TAB PO QHS 

 
Discharge Medications:
1.  CefePIME 2 g IV Q8H 
RX *cefepime [Maxipime] 2 gram 1 package IV every 8 hours Disp 
#*126 Vial Refills:*0 
2.  Erythromycin 0.5% Ophth Oint 0.5 ___ LEFT ___ TID 
RX *erythromycin 5 mg/gram (0.5 %) 1 appl topical three times a 
day Refills:*3 
3.  Fluticasone Propionate NASAL 1 SPRY NU BID 
RX *fluticasone [Allergy Relief (fluticasone)] 50 mcg/actuation 
1 spray nasal twice a day Disp #*1 Spray Refills:*3 
4.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*130 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
6.  Amantadine 100 mg PO BID  
7.  Apixaban 5 mg PO BID  
8.  Atorvastatin 20 mg PO QPM  
9.  Carbidopa-Levodopa (___) 0.5 TAB PO QHS  
10.  Famotidine 20 mg PO DAILY  
11.  Levothyroxine Sodium 88 mcg PO DAILY  
12.  Metoprolol Tartrate 12.5 mg PO BID  
13.  Rasagiline 1 mg PO DAILY  
14.  Vitamin D 5000 UNIT PO DAILY  
15.Outpatient Lab Work
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
WEEKLY: CBC with differential, BUN, Cr, CRP. First draw ___.
Diagnosis: acute ethmoidal sinusitis (J01.21), orbital abscess 
(H05.19)
Contact: Dr. ___, ___ clinic ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
left ethmoid sinusitis with subperiosteal abscess  
___ disease 
hypertension 
hyperlipidemia 
Grave's disease 
h/o stroke, NCSE 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the neurology service at ___ 
___ after you presented with left ___ pain 
and swelling. Imaging of your ___ showed a sinus infection, with 
extension of the infection into the tissues behind your ___. 

The ophthalmology and ___ (ENT) doctors were closely 
involved ___ your care, and you had a surgery on ___ to drain 
the area of infection. You were treated with broad-spectrum 
antibiotics initially, with the infectious disease team 
following. You are being discharged on a 6-week course (to 
finish ___ of cefepime and Flagyl to complete the treatment of 
your infection.

Because of the risk of bleeding around the time of the surgery, 
your Apixaban was stopped on admission. Your cardiologist at ___ 
was notified of this medication change. You were restarted on 
Apixaban on ___.

Please follow up with neurology, ophthalmology, infectious 
disease, and ENT as listed below.

Please return to care should you develop any recurrent symptoms 
of ___ pain or swelling, or if you develop vision changes. 

It was a pleasure participating ___ your care. 

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___